US08614217B2
A suspension of N-hydroxyphthalimide (35.0 g, 214 mmol), 2-[6-(bromomethyl)pyridin-2-yl]-1H-isoindole-1,3(2H)-dione (74.8 g, 236 mmol), cesium carbonate (146.8 g, 450 mmol) and potassium iodide (1.78 g, 10.7 mmol) in acetonitrile (350 mL) was stirred at room temperature for 18 h. Water (300 mL) was added, the precipitate was filtered off and washed with water until colourless, then dried in vacuo overnight to yield 2-(6-{[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)oxy]methyl}pyridin-2-yl)-1H-isoindole-1,3(2H)-dione as a colourless solid [85.0 g; 94% of theory; HPLC/MS m/z=400 (M+H); log P(HCOOH)=2.44].

reactant | N-hydroxyphthalimide | 214 mmol, 35.0 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | 2-[6-(bromomethyl)pyridin-2-yl]-1H-isoindole-1,3(2H)-dione | 236 mmol, 74.8 g | BrCC1=CC=CC(=N1)N1C(C2=CC=CC=C2C1=O)=O | C14H9BrN2O2
reactant | cesium carbonate | 450 mmol, 146.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | 10.7 mmol, 1.78 g | [I-].[K+]
solvent | acetonitrile | 350 mL | C(C)#N | C2H3N
solvent | Water | 300 mL | O | H2O
product | 2-(6-{[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)oxy]methyl}pyridin-2-yl)-1H-isoindole-1,3(2H)-dione | O=C1N(C(C2=CC=CC=C12)=O)OCC1=CC=CC(=N1)N1C(C2=CC=CC=C2C1=O)=O | C22H13N3O5
